US03987047
3-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]propionic acid morpholide dihydrochloride
3.3 gm (9.25 millimols) of 3-[1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b] quinoline-3yl]propionic acid were converted into the acid chloride with 50 ml of thionylchloride. After distilling off the excess thionyl chloride, the residue was dissolved in 100 ml of benzene, and the solution was heated at its boiling point with 3 ml (35 millimols) of morpholine for 3 hours. After filtering, the solvent was distilled off in vacuo. The residue was dissolved in 2 N sodium hydroxide, the solution was extracted with chloroform, and the chloroform phase was dried over sodium sulfate and evaporated. The evaporation residue was dissolved in hot isopropanol and acidified with isopropanolic hydrochloric acid. Upon cooling, the dihydrochloride crystallized out.

reactant | 3-[1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b] quinoline-3yl]propionic acid | 9.25 millimols, 3.3 gm | CC1=C2C(=NC=3C=CC=CC13)CCN(CC2)CCC(=O)O | C17H20N2O2
reactant | morpholine | 35 millimols, 3 ml | N1CCOCC1 | C4H9NO
reactant | thionylchloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]propionic acid morpholide dihydrochloride | Cl.Cl.CC1=C2C(=NC=3C=CC=CC13)CCN(CC2)CCC(=O)N2CCOCC2 | InChI=1S/C21H27N3O2.2ClH/c1-16-17-4-2-3-5-19(17)22-20-7-10-23(9-6-18(16)20)11-8-21(25)24-12-14-26-15-13-24;;/h2-5H,6-15H2,1H3;2*1H
